US04203988
A. N-(4-Chlorobutyl)-N-(4,6-dimethyl-2-pyridyl)acetamide
To N-(4,6-dimethyl-2-pyridyl)acetamide (49.2 g, 0.3 mole) dissolved in dimethylformamide (550 ml) is added sodium hydride in mineral oil (50%) (13.45 g., 0.32 mole) in portions at room temperature. When reaction is complete, the mixture is warmed with stirring to 45° and 1-bromo-4-chlorobutane (52.5 g., 0.306 mole) is added in one portion and stirred one hour on the steam bath. The reaction mixture is then cooled, acidified with hydrochloric acid and concentrated under vacuum. The residue is dissolved in water and extracted with diethyl ether. The aqueous layer is made basic with sodium hydroxide and extracted with ether. The combined etheral extracts are washed with brine, treated with charcoal, dried (sodium sulfate) and concentrated to obtain the product oil, weight 56.6 g.

reactant | N-(4,6-dimethyl-2-pyridyl)acetamide | 0.3 mole, 49.2 g | CC1=CC(=NC(=C1)C)NC(C)=O | C9H12N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-4-chlorobutane | 0.306 mole, 52.5 g | BrCCCCCl | C4H8BrCl
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 550 ml | CN(C=O)C | C3H7NO
product | N-(4-Chlorobutyl)-N-(4,6-dimethyl-2-pyridyl)acetamide | ClCCCCN(C(C)=O)C1=NC(=CC(=C1)C)C | C13H19ClN2O
